* Parasitic capacitance extraction

.param scale_n = '2m / 5.561820e-4'
.param scale_p = '2m / 9.045101e-5'

.lib "/usr/local/share/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.subckt df_nfet Vd Vg Vs Vb W_val=5 L_val=0.15
   XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1
.ends df_nfet

.subckt df_pfet Vs Vg Vd Vb W_val=5 L_val=0.30
   XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1
.ends df_pfet

Vdsp Vdsp 0 DC -0.4
Vgsp Vgsp 0 DC -1.35

Vdsn Vdsn 0 DC 0.4
Vgsn Vgsn 0 DC 1.1

Xnfet1 Vdsn Vgsn 0 0 df_nfet
Xpfet1 0 Vgsp Vdsp 0 df_pfet

.control
  op

  let cgsn_fF = abs(@m.xnfet1.xmn.msky130_fd_pr__nfet_01v8[cgs]) * 1e15
  let cgdn_fF = abs(@m.xnfet1.xmn.msky130_fd_pr__nfet_01v8[cgd]) * 1e15
  let cggn_fF = abs(@m.xnfet1.xmn.msky130_fd_pr__nfet_01v8[cgg]) * 1e15
  let cdsn_fF = abs(@m.xnfet1.xmn.msky130_fd_pr__nfet_01v8[cds]) * 1e15
  let cgbn_fF = abs(@m.xnfet1.xmn.msky130_fd_pr__nfet_01v8[cgb]) * 1e15
  let cdbn_fF = abs(@m.xnfet1.xmn.msky130_fd_pr__nfet_01v8[cdb]) * 1e15

  let cgsp_fF = abs(@m.xpfet1.xmp.msky130_fd_pr__pfet_01v8[cgs]) * 1e15
  let cgdp_fF = abs(@m.xpfet1.xmp.msky130_fd_pr__pfet_01v8[cgd]) * 1e15
  let cggp_fF = abs(@m.xpfet1.xmp.msky130_fd_pr__pfet_01v8[cgg]) * 1e15
  let cdsp_fF = abs(@m.xpfet1.xmp.msky130_fd_pr__pfet_01v8[cds]) * 1e15
  let cgbp_fF = abs(@m.xpfet1.xmp.msky130_fd_pr__pfet_01v8[cgb]) * 1e15
  let cdbp_fF = abs(@m.xpfet1.xmp.msky130_fd_pr__pfet_01v8[cdb]) * 1e15

  print all
.endc

.end