* Sky130 NMOS Id-Vgs and Transconductance (gm) characterization

.option savecurrents
.temp 27

* Dimensions
.param W=5
.param L=0.15

* Bias sources
VDS d 0 0
VGS g 0 0

* Device under test: drain gate source bulk
XMN d g 0 0 sky130_fd_pr__nfet_01v8 w=W l=L nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1

* Sky130 model library and corner
.lib "/mnt/d/Linux/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.control
set noaskquit
set wr_vecnames
set wr_singlescale

set prefix = "nmos_gm_vgs_vds_"
set ext = ".csv"

* Sweep VDS across key operation points (0.05V = Linear, 1.80V = Saturation)
foreach vds 0.05 0.10 0.20 0.40 0.60 0.80 1.00 1.20 1.50 1.80
  alter vds $vds
  
  * Primary DC sweep on VGS
  dc VGS 0 1.8 0.001

  * Calculate Drain Current and Transconductance (dId/dVgs)
  let id = -vds#branch
  let gm = deriv(id)

  set outfile = {$prefix}{$vds}{$ext}

  * Write 3-column output: VGS, ID, GM
  wrdata $outfile id gm

  * Format space delimiters into commas for clean CSV
  shell sed -i 's/[[:space:]]\+/,/g' $outfile
end

quit
.endc

.end