* Sky130 PMOS Id-Vds characterization (1.8V core PMOS)

.option savecurrents
.temp 27

* Dimensions
.param W=5
.param L=0.15

* Bias sources
VDS d 0 0
VGS g 0 0

* Device under test: drain gate source bulk
XMP d g 0 0 sky130_fd_pr__pfet_01v8 w=W l=L nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1

* Sky130 model library and corner
.lib "/mnt/d/Linux/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.control
set noaskquit

set prefix = "pmos_id_vds_vgs_"
set ext = ".csv"

foreach vgs -0.10 -0.20 -0.30 -0.40 -0.50 -0.60 -0.75 -0.90 -1.20 -1.50 -1.80
  alter vgs $vgs
  dc VDS 0 -1.8 -0.001
  set outfile = {$prefix}{$vgs}{$ext}
  wrdata $outfile -i(VDS)
end

quit
.endc

.end
