* Sky130 PMOS Id-Vgs and Transconductance (gm) characterization

.option savecurrents
.temp 27

* Dimensions
.param W=5
.param L=0.15

* Bias sources
VDS d 0 0
VSG g 0 0

* Device under test: drain gate source bulk
XMP d g 0 0 sky130_fd_pr__pfet_01v8 w=W l=L nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1

* Sky130 model library and corner
.lib "/mnt/d/Linux/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.control
set noaskquit
set wr_vecnames
set wr_singlescale

set prefix = "pmos_gm_vgs_vds_"
set ext = ".csv"

* Sweep VDS across negative values (-0.05V = Linear, -1.80V = Saturation)
foreach vds -0.05 -0.10 -0.20 -0.40 -0.60 -0.80 -1.00 -1.20 -1.50 -1.80
  alter vds $vds
  
  * Direct negative sweep on Gate bias: 0V to -1.8V (step = -0.001V)
  dc VSG 0 -1.8 -0.001

  * Invert branch current to make ID negative
  let id = -vds#branch
  let gm = deriv(id)

  set outfile = {$prefix}{$vds}{$ext}

  * Write 3-column output: VGS (negative), ID (negative), GM (positive)
  wrdata $outfile id gm

  * Format space delimiters into commas for clean CSV
  shell sed -i 's/[[:space:]]\+/,/g' $outfile
end

quit
.endc

.end