* Test - Fixed Parallel Scaling using m=

.param W=5, L=0.15
.param scale = 1m/1.5407892900e-04

* Include PDK model library
.lib "/usr/local/share/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

Vin Vin 0 DC 0.9
Vdd Vdd 0 DC 1.8

Vmeas1 Vdd Vd1 DC 0
Vmeas2 Vdd Vd2 DC 0

* 1. Apply m='scale' on the subcircuit instance line instead of inside the PDK
Xfet1 Vd1 Vin 0 0 MY_NFET
Xfet2 Vd2 Vin 0 0 MY_NFET m='scale'

.subckt MY_NFET Vd Vg Vs Vb
   XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 w=5 l=0.15 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
.ends MY_NFET

.dc Vdd 0 1.8 0.01

.control
  run
  let scale = 1m / 1.5407892900e-04
  let id1 = i(Vmeas1)
  let id2_scaled = i(Vmeas2) / scale
  
  * id1 and id2_scaled will now overlay with 100% precision
  plot id1 id2_scaled title "Exact Current Comparison (m= Instance Scaling)" xlabel "Vds (V)" ylabel "Current (A)"
.endc

.end