* Test

.param W=5, L=0.15
.param scale = 1m/1.5407892900e-04

* Include PDK model library
.lib "/usr/local/share/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

Vin Vin 0 DC 0.9
Vdd Vdd 0 DC 1.8
Ib Vdd Vd DC 1m

Xfet1 Vd Vin 0 0 MY_NFET m='scale'

.subckt MY_NFET Vd Vg Vs Vb
   XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 w=W l=L nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1 
.ends MY_NFET

* 1. Save internal parameters BEFORE the control block / run command
.save all @m.xfet1.xmn.msky130_fd_pr__nfet_01v8[gm] @m.xfet1.xmn.msky130_fd_pr__nfet_01v8[gds]
.save all @m.xfet1.xmn.msky130_fd_pr__nfet_01v8[vth]
.control
  op
  let gm_val  = @m.xfet1.xmn.msky130_fd_pr__nfet_01v8[gm]
  let gds_val = @m.xfet1.xmn.msky130_fd_pr__nfet_01v8[gds]
  let vth_val = @m.xfet1.xmn.msky130_fd_pr__nfet_01v8[vth]
  let ro_val  = 1 / gds_val
  print all
.endc

.end